US07767677B2
Synthesis of 3-phenyl-6-piperazin-1-yl-pyridazine
To a solution of 3-chloro-6-phenylpyridazine (0.960 g, 5.000 mmol) in acetonitrile (25 mL) was added piperazine (2.580 g, 30.00 mmol) and the mixture was stirred at reflux for 16 hours. The solvent was removed in vacuo and the residue was dissolved in dichloromethane. The resulting solution was washed with water, dried over MgSO4 and concentrated. The title compound was obtained in 99% yield (1.200 g).

reactant | 3-chloro-6-phenylpyridazine | 5.000 mmol, 0.960 g | ClC=1N=NC(=CC1)C1=CC=CC=C1 | C10H7ClN2
reactant | piperazine | 30.00 mmol, 2.580 g | N1CCNCC1 | C4H10N2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 3-phenyl-6-piperazin-1-yl-pyridazine | 99% yield | C1(=CC=CC=C1)C=1N=NC(=CC1)N1CCNCC1 | C14H16N4
